US08937071B2
A suspension of 2-(5-amino-3-(trifluoromethyl)pyridin-2-yl)-2-methylpropanenitrile (13.91 mg, 0.061 mmol) in DMF (5 mL) was added to a solution of 2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetic acid (52 mg, 0.061 mmol) in DMF (5 mL). HOBt (13.94 mg, 0.091 mmol), EDC (17.45 mg, 0.091 mmol) and Et3N (0.025 mL, 0.182 mmol) and the mixture was at 50° C. for 12 h. Then the solution was concentrated and distributed between EA and saturated NaHCO3 solution. The combined organic extract was washed with brine, dried over MgSO4, filtered and concentrated. The crude material was purified by preparative HPLC (MeCN/H2O as eluants, acidic condition) to yield an off white solid of N-(6-(2-cyanopropan-2-yl)-5-(trifluoromethyl)pyridin-3-yl)-2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetamide, hydrochloride (8.62 mg, 0.016 mmol, 26.4% yield). TLC (DCM/MeOH=10:1, Rf=0.3): 1H NMR (400 MHz, CD3OD) δ: 8.95 (d, J=2.2 Hz, 1H), 8.56 (d, J=2.4 Hz, 1H), 7.26-7.47 (m, 5H), 4.14 (q, J=7.0 Hz, 2H), 3.81-3.90 (m, 2H), 1.77-1.91 (m, 6H), 1.47 (t, J=6.9 Hz, 3H); ES-LCMS m/z 503.1 (M+H).

reactant | 2-(5-amino-3-(trifluoromethyl)pyridin-2-yl)-2-methylpropanenitrile | 0.061 mmol, 13.91 mg | NC=1C=C(C(=NC1)C(C#N)(C)C)C(F)(F)F | C10H10F3N3
reactant | 2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetic acid | 0.061 mmol, 52 mg | C(C)OC1=CC(=CNC1=O)C1=CC(=C(C=C1)CC(=O)O)F | C15H14FNO4
reactant | HOBt | 0.091 mmol, 13.94 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.091 mmol, 17.45 mg
reactant | Et3N | 0.182 mmol, 0.025 mL | CCN(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(6-(2-cyanopropan-2-yl)-5-(trifluoromethyl)pyridin-3-yl)-2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetamide, hydrochloride | 0.016 mmol, 8.62 mg, 26.4% yield | Cl.C(#N)C(C)(C)C1=C(C=C(C=N1)NC(CC1=C(C=C(C=C1)C1=CNC(C(=C1)OCC)=O)F)=O)C(F)(F)F | InChI=1S/C25H22F4N4O3.ClH/c1-4-36-20-8-16(11-32-23(20)35)14-5-6-15(19(26)7-14)9-21(34)33-17-10-18(25(27,28)29)22(31-12-17)24(2,3)13-30;/h5-8,10-12H,4,9H2,1-3H3,(H,32,35)(H,33,34);1H
